US08492568B2
Step 4: (6-Chloro-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-4-yl)acetic acid
To a stirred solution of (2E)-(6-chlorospiro[chromene-2,1′-cyclobutan]-4(3H)-ylidene)acetic acid (2.5 g, 9.444 mmol) in ethyl acetate (25 ml) was added 10% Pd/C (50 mg) at room temperature. The reaction mixture was stirred for 12 h at 40 psi hydrogen pressure in Paar hydrogenation apparatus. The reaction mixture was filtered through a celite bed, the filtrate was dried (Na2SO4) and concentrated to give 2.45 g of the product as a white solid; 1H NMR (300 MHz, CDCl3) δ 1.68-1.78 (m, 5H), 1.86-1.96 (m, 1H), 2.09-2.21 (m, 2H), 2.29-2.38 (m, 1H), 2.99 (d, J=13.2 Hz, 1H), 3.44 (br s, 1H), 6.73 (d, J=8.1 Hz, 1H), 7.04 (d, J=9.3 Hz, 1H).

reactant | (2E)-(6-chlorospiro[chromene-2,1′-cyclobutan]-4(3H)-ylidene)acetic acid | 9.444 mmol, 2.5 g | ClC=1C=C2\C(\CC3(CCC3)OC2=CC1)=C\C(=O)O | C14H13ClO3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | (6-Chloro-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-4-yl)acetic acid | 2.45 g | ClC=1C=C2C(CC3(CCC3)OC2=CC1)CC(=O)O | C14H15ClO3
